US07592358B2
IP 7a. 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine
The product was obtained analogously to IP 5b starting from 10.0 g (45.5 mmol) of 1-benzyl-4-methylpyridinium chloride. Yield: 7.15 g (84% of theoretical); C13H17N (M=187.281); calc.: molpeak (M+H)+: 188; found: molpeak (M+H)+: 188; Rf value: 0.95 (silica gel, EtOAc/MeOH/NH3 9:1:0.1).

reactant | 1-benzyl-4-methylpyridinium chloride | 45.5 mmol, 10.0 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)C
reactant | EtOAc MeOH NH3 | CCOC(=O)C.CO.N
product | 1-benzyl-4-methyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C | C13H17N
